US20010053852A1
a) Preparation of Benzyloxyacetaldehyde Dimethylacetal
648 g (6 mol) of benzyl alcohol were charged and 3 mol of sodium methoxide (30% in methanol) were added. 474 g of methanol were then distilled off, at approximately 135° C., 374 g (3 mol) of chloroacetaldehyde dimethylacetal were added in the course of 2 hours and allowed to react further for 2 hours at this temperature. NaCl precipitated out. After cooling to 70° C., 700 ml of water were added and the phases were separated. The organic phase (1011 g) was then worked up by distillation at 13 mbar via a column. 550 g of initial runnings contained excess benzyl alcohol and further low boilers, and at 125 to 128° C., 396 g of benzyloxyacetaldehyde dimethylacetal distilled over (67% yield, based on chloroacetaldehyde dimethylacetal used)

reactant | benzyl alcohol | 6 mol, 648 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium methoxide | 3 mol | C[O-].[Na+]
reactant | chloroacetaldehyde dimethylacetal | 3 mol, 374 g | COC(CCl)OC | C4H9ClO2
product | Benzyloxyacetaldehyde Dimethylacetal | 67% yield | COC(COCC1=CC=CC=C1)OC | C11H16O3
